US07265120B2
In a sealed tube, iodomethane (0.6 ml) was added to a solution of 6-[5-amino-3-phenyl-6-(4-pyridyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (120 mg) in THF (3 ml) and the mixture was stirred at 25-35° C. for 18 hours. A precipitate was collected by filtration to give 4-[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]-1-methylpyridinium iodide (152 mg).

reactant | iodomethane | 0.6 ml | IC | CH3I
reactant | 6-[5-amino-3-phenyl-6-(4-pyridyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 120 mg | NC=1N=C(C(=NC1C1=CC=NC=C1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C22H20N6O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]-1-methylpyridinium iodide | 152 mg | [I-].NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=NN(C(C=C1)=O)C(C)C)C1=CC=[N+](C=C1)C | InChI=1S/C23H22N6O.HI/c1-15(2)29-19(30)10-9-18(27-29)22-20(16-7-5-4-6-8-16)26-23(24)21(25-22)17-11-13-28(3)14-12-17;/h4-15,24H,1-3H3;1H
